US07208614B2
A solution of tert-butyllithium in THF is firstly produced by reacting 9.25 g of tert-butyl chloride with 1.4 g of lithium granules in 100 g of THF at −78° C. After a conversion of >97% (GC a/a) has been reached, 1,3-difluorobenzene (11.4 g) is added and the mixture is stirred for another 30 minutes at −78° C. and subsequently for 2 hours at −65° C. The resulting solution of 2,6-difluoro-1-lithiobenzene is added dropwise to a solution of 22 g of acetic anhydride in 35 g of THF which has been cooled to −5° C. After the usual aqueous work-up, 2,6-difluoroacetophenone is obtained in a yield of 92%.

reactant | tert-butyl chloride | 9.25 g | C(C)(C)(C)Cl | C4H9Cl
reactant | lithium | 1.4 g | [Li] | Li
reactant | 1,3-difluorobenzene | 11.4 g | FC1=CC(=CC=C1)F | C6H4F2
reactant | 2,6-difluoro-1-lithiobenzene | FC1=C(C(=CC=C1)F)[Li]
reactant | acetic anhydride | 22 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | 100 g | C1CCOC1 | C4H8O
solvent | THF | 35 g | C1CCOC1 | C4H8O
product | 2,6-difluoroacetophenone | yield of 92% | CC(=O)C1=C(C=CC=C1F)F | C8H6F2O
